US09216965B2
6-(tert-Butylsulfonyl)-4-chloroquinolin-7-ol (60 mg, 0.196 mmol), K2CO3 (55 mg, 0.392 mmol) and 1-bromo-3-methoxypropane (0.088 ml, 0.785 mmol) in DMF (1 ml) were heated to 70° C. The reaction mixture was partitioned between EtOAc and brine. The aqueous layer was extracted with EtOAc twice and the combined EtOAc layers were dried over Na2SO4, filtered, and concentrated. The residue was purified via Biotage (SNAP Cartridge KP Sil 10 g, 30-75% EtOAc/Hexane) to yield 6-(tert-butylsulfonyl)-4-chloro-7-(3-methoxypropoxy)quinoline (0.071 g, 0.185 mmol, 94% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33 (s, 9H) 1.99-2.08 (m, 2H) 3.27 (s, 3H) 3.58 (t, J=6.19 Hz, 2H) 4.32 (t, J=6.19 Hz, 2H) 7.73 (s, 1H) 7.76 (d, J=4.80 Hz, 1H) 8.65 (s, 1H) 8.94 (d, J=4.55 Hz, 1H), MS: m/z: 372.1 [M+H]+.

reactant | 6-(tert-Butylsulfonyl)-4-chloroquinolin-7-ol | 0.196 mmol, 60 mg | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1O)Cl | C13H14ClNO3S
reactant | K2CO3 | 0.392 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-methoxypropane | 0.785 mmol, 0.088 ml | BrCCCOC | C4H9BrO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-(tert-butylsulfonyl)-4-chloro-7-(3-methoxypropoxy)quinoline | 0.185 mmol, 0.071 g, 94% yield | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCCCOC)Cl | C17H22ClNO4S
